US07683060B2
Step 5. Methyl 4-(3-hydrazino-1,2,4-triazin-6-yl)benzoate
To a solution of methyl 4-(3-chloro-1,2,4-triazin-6-yl)benzoate (1.1 g, 0.0044 mol) in tetrahydrofuran (30 mL) was added hydrazine hydrate (1.1 mL, 0.022 mol) at RT with stirring. The mixture was stirred at RT for 1 h, and concentrated under reduced pressure to give the desired product (quantitatively). Analytical LCMS: (M+H)+=245.9.

reactant | methyl 4-(3-chloro-1,2,4-triazin-6-yl)benzoate | 0.0044 mol, 1.1 g | ClC=1N=NC(=CN1)C1=CC=C(C(=O)OC)C=C1 | C11H8ClN3O2
reactant | hydrazine hydrate | 0.022 mol, 1.1 mL | O.NN
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | Methyl 4-(3-hydrazino-1,2,4-triazin-6-yl)benzoate | N(N)C=1N=NC(=CN1)C1=CC=C(C(=O)OC)C=C1 | C11H11N5O2
